US06180675B2
b) Preparation of N-(2-hydroxy-azidophenyl)-N′-(2-iodophenyl)urea
The N-(2-hydroxy-4-aminophenyl)-N′-(2-iodophenyl)urea(77 mg, 0.21 mmol) was added to HCl/H2O (0.21 mL/0.42 mL), and cooled to 0° C. Sodium nitrate (14.5 mg, 0.21 mmol) was added to the reaction mixture. The reaction mixture was stirred at 0° C. for 30 minutes. Sodium azide (14 mg, 0.21 mmol) was added to reaction mixture and it was warmed to room temperature. The reaction mixture was stirred at room temperature for 18 hours. Then it was extracted with three times by ethyl acetate. The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure and chromatography of the resulting solid on silica gel (hexane : ethyl acetate; 5:1) gave product (20 mg, 24%). EI-MS m/z 396 (M+H)+.

reactant | N-(2-hydroxy-4-aminophenyl)-N′-(2-iodophenyl)urea | 0.21 mmol, 77 mg | OC1=C(C=CC(=C1)N)NC(=O)NC1=C(C=CC=C1)I | C13H12IN3O2
reactant | HCl H2O | 0.21 mL | Cl.O
reactant | Sodium nitrate | 0.21 mmol, 14.5 mg | [N+](=O)([O-])[O-].[Na+]
reactant | Sodium azide | 0.21 mmol, 14 mg | [N-]=[N+]=[N-].[Na+]
product | N-(2-hydroxy-azidophenyl)-N′-(2-iodophenyl)urea | 20 mg, 24% | OC1=C(C=CC=C1N=[N+]=[N-])NC(=O)NC1=C(C=CC=C1)I | C13H10IN5O2
